US08957069B2
1-(4-Ethoxyphenyl)-4-(7-ethoxy-2,4,6-trimethyl-2,3-dihydro-1-benzofuran-5-yl)piperazine
By using 1-(7-ethoxy-2,4,6-trimethyl-2,3-dihydro-1-benzofuran-5-yl)piperazine (580 mg, 2.0 mmol) synthesized in Reference example 89 and 1-bromo-4-ethoxybenzene (804 mg, 4.0 mmol), the reaction was carried out in the same manner as Example 23 to synthesize the title compound 532 mg (yield 65%). Melting point was 121 to 122° C. (ethanol-water).

reactant | 1-(7-ethoxy-2,4,6-trimethyl-2,3-dihydro-1-benzofuran-5-yl)piperazine | 2.0 mmol, 580 mg | C(C)OC1=C(C(=C(C=2CC(OC21)C)C)N2CCNCC2)C | C17H26N2O2
reactant | 1-bromo-4-ethoxybenzene | 4.0 mmol, 804 mg | BrC1=CC=C(C=C1)OCC | C8H9BrO
product | 1-(4-Ethoxyphenyl)-4-(7-ethoxy-2,4,6-trimethyl-2,3-dihydro-1-benzofuran-5-yl)piperazine | 532 mg, yield 65% | C(C)OC1=CC=C(C=C1)N1CCN(CC1)C=1C(=C(C2=C(CC(O2)C)C1C)OCC)C | C25H34N2O3
